US07291643B2
N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-3,5-difluorophenyl]-methanesulfonamide
A mixture of methanesulfonyl chloride (0.046 mL, 0.66 mmol) and 5-(4-amino-2,6-difluorophenyl)-1-methyl-1H-pyrrole-2-carbonitrile (0.100 g, 0.429 mmol) in pyridine (1.5 mL) was heated to 50° C. for 4 hours. The reaction mixture was acidified with 1N HCl solution and extracted with ethyl acetate. The combined organic layers were dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (dichloromethane/acetone, 97/3) to afford the title compound (0.060 g, 45%).

reactant | methanesulfonyl chloride | 0.66 mmol, 0.046 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-(4-amino-2,6-difluorophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.429 mmol, 0.100 g | NC1=CC(=C(C(=C1)F)C1=CC=C(N1C)C#N)F | C12H9F2N3
reactant | HCl | 1N | Cl | ClH
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-3,5-difluorophenyl]-methanesulfonamide | 0.060 g, 45% | C(#N)C1=CC=C(N1C)C1=C(C=C(C=C1F)NS(=O)(=O)C)F | C13H11F2N3O2S
